US04420630
A mixture of 10.0 g (0.02511 mol) of 4-(methanesulfonamido)phenyl 4-(2-bromoethyl)benzoate, 3.47 g (0.02511 mol) of potassium carbonate and 100 ml of acetone was stirred at room temperature for 48 hours. The resultant mixture was filtered and the filtrate was condensed to a solid. Recrystallization from 1:1 1,2-dichloroethane:hexane gave 4.2 g (52.7% of theory) of 4-(methanesulfonamido)phenyl 4-vinylbenzoate; mp=172°-3° C.

reactant | 4-(methanesulfonamido)phenyl 4-(2-bromoethyl)benzoate | 0.02511 mol, 10.0 g | BrCCC1=CC=C(C(=O)OC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C16H16BrNO4S
reactant | potassium carbonate | 0.02511 mol, 3.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-(methanesulfonamido)phenyl 4-vinylbenzoate | 4.2 g, 52.7% | C(=C)C1=CC=C(C(=O)OC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C16H15NO4S
